US04721791
To a hot (60° C.) solution of cyanoacetamide (1.09 g) in 30 ml of ethanol, 13 ml of a methanolic solution of NaOH (1N) was added and the resulting mixture was stirred at 60° C. for 20 minutes. At this point a solution of 4-methyl-3-(trichlorovinyl)benzyl azide (1.65 g) in 10 ml of ethanol was added and the reaction mixture stirred at 60° C. for an additional two hours. The precipitate was removed by filtration and rinsed with ethanol and ether. The filtrate was diluted with water (200 ml) and the resulting precipitate collected (1.56 g). The crude product was chromatographed on silica with 95:5 methylene chloride:methanol to give 889 mg of 5-amino-1-[4-methyl-3-(trichlorovinyl)benzyl]-1,2,3-triazole-4-carboxamide, m.p. 196°-197° C.

reactant | cyanoacetamide | 1.09 g | C(#N)CC(=O)N | C3H4N2O
reactant | NaOH | 1N | [OH-].[Na+]
reactant | 4-methyl-3-(trichlorovinyl)benzyl azide | 1.65 g | CC1=C(C=C(CN=[N+]=[N-])C=C1)C(=C(Cl)Cl)Cl | C10H8Cl3N3
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-amino-1-[4-methyl-3-(trichlorovinyl)benzyl]-1,2,3-triazole-4-carboxamide | 889 mg | NC1=C(N=NN1CC1=CC(=C(C=C1)C)C(=C(Cl)Cl)Cl)C(=O)N | C13H12Cl3N5O
